US04390527
D: L-asparagine
According to a particularly advantageous further development of the invention X is replaced by the D-amino acids: D-alanine, D-threonine or D-valine.

reactant | D-alanine | N[C@H](C)C(=O)O | C3H7NO2
reactant | D-threonine | N[C@H]([C@@H](O)C)C(=O)O | C4H9NO3
reactant | D-valine | N[C@H](C(C)C)C(=O)O | C5H11NO2
product | L-asparagine | N[C@@H](CC(N)=O)C(=O)O | C4H8N2O3
